US08729078B2
Under N2, acetic acid 2-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl ester (preparation described in intermediate-4, 72 mg, 0.153 mmol), 2-bromo-4-methyl-oxazole-5-carboxylic acid ethyl ester (34 mg, 0.146 mmol), Pd(dppf)Cl2 (36 mg, 0.0438 mmol) and K2CO3 (61 mg, 0.438 mmol) were dissolved in dioxane/H2O (5:1, 6 mL). The reaction mixture was stirred at 100° C. for about 1.5 h. The solvent was removed under reduced pressure, and the residue was purified by silica gel chromatography (petroleum ether/ethyl acetate=2:1) to give 2-[2-acetoxymethyl-3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-phenyl]-4-methyl-oxazole-5-carboxylic acid ethyl ester.

reactant | acetic acid 2-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl ester | 0.153 mmol, 72 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=CC1)=O)C1=C(COC(C)=O)C(=CC=C1)B1OC(C(O1)(C)C)(C)C | C27H33BN2O5
reactant | 2-bromo-4-methyl-oxazole-5-carboxylic acid ethyl ester | 0.146 mmol, 34 mg | C(C)OC(=O)C1=C(N=C(O1)Br)C | C7H8BrNO3
reactant | K2CO3 | 0.438 mmol, 61 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane H2O | 6 mL | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | 0.0438 mmol, 36 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-[2-acetoxymethyl-3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-phenyl]-4-methyl-oxazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(O1)C1=C(C(=CC=C1)N1C(C2=CC=C(C=C2C=N1)C(C)(C)C)=O)COC(C)=O)C | C28H29N3O6
